US09107916B2
A. 2-[5-(pyridin-3-ylmethoxy)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and pyridin-3-ylmethanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.27 (2H, s), 5.78 (1H, d, J=2.0 Hz), 7.41 (1H, dd, J=1.2 Hz, J=5.2 Hz), 7.36 (1H, dd, J=4.8 Hz, J=7.6 Hz), 7.58 (1H, d, J=2.0 Hz), 7.80 (1H, d, J=8.0 Hz), 8.03 (1H, s), 8.63 (1H, dd, J=1.2 Hz, J=4.8 Hz), 8.69-8.72 (2H, m). [M+H] Calc'd for C15H11N5O, 278. Found, 278.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | pyridin-3-ylmethanol | N1=CC(=CC=C1)CO | C6H7NO
product | 2-[5-(pyridin-3-ylmethoxy)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | N1=CC(=CC=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N | C15H11N5O
